US09290451B2
c) 6-(3-Chloro-phenyl)-pyridine-2-carboxylic acid (1-methyl-1-[1,2,4]oxadiazol-3-yl-ethyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-(3-chlorophenyl)-2-pyridinecarboxylic acid (CAN 863704-38-5) and 1-methyl-1-[1,2,4]oxadiazol-3-yl-ethylamine (CAN 1153757-41-5) as starting materials, MS (EI): m/e=343.1 [M+H]+.

reactant | 6-(3-chlorophenyl)-2-pyridinecarboxylic acid | ClC=1C=C(C=CC1)C1=CC=CC(=N1)C(=O)O | C12H8ClNO2
reactant | 1-methyl-1-[1,2,4]oxadiazol-3-yl-ethylamine | CC(C)(C1=NOC=N1)N | C5H9N3O
product | 6-(3-Chloro-phenyl)-pyridine-2-carboxylic acid (1-methyl-1-[1,2,4]oxadiazol-3-yl-ethyl)-amide | CC(C)(C1=NOC=N1)NC(=O)C1=NC(=CC=C1)C1=CC(=CC=C1)Cl | C17H15ClN4O2
